US07728025B2
(Step 3) Production of 4-(4-fluoro-phenoxy)-2-(pyrazol-1-yl)-6-(pyridin-3-yloxy)-1H-benzimidazole
0.012 ml of tetramethoxypropane was added to an ethanol (0.3 ml) solution of 8.3 mg of (4-(4-fluoro-phenoxy)-6-(pyridin-3-yloxy)-1H-benzimidazol-2-yl)-hydrazine, and the reaction liquid was stirred overnight at 80° C. The reaction solvent was evaporated away under reduced pressure, and the resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=9/1) to obtain the entitled compound.

reactant | tetramethoxypropane | 0.012 ml | COC(C(OC)(OC)OC)C | C7H16O4
reactant | (4-(4-fluoro-phenoxy)-6-(pyridin-3-yloxy)-1H-benzimidazol-2-yl)-hydrazine | 8.3 mg | FC1=CC=C(OC2=CC(=CC=3NC(=NC32)NN)OC=3C=NC=CC3)C=C1 | C18H14FN5O2
solvent | ethanol | 0.3 ml | C(C)O | C2H6O
product | 4-(4-fluoro-phenoxy)-2-(pyrazol-1-yl)-6-(pyridin-3-yloxy)-1H-benzimidazole | FC1=CC=C(OC2=CC(=CC=3NC(=NC32)N3N=CC=C3)OC=3C=NC=CC3)C=C1 | C21H14FN5O2
